US09227951B2
To a vial containing 5-[(1R)-1-{[(S)-tert-butylsulfinyl]amino}ethyl]thiophene-2-carboxylate (0.050 g, 0.15 mmol) was added hydrochloric acid (3 mL, 12.0 mmol, 4.0 M of in 1,4-dioxane). This mixture was capped and heated at 60° C. for 2 h, after which it was evaporated to dryness to afford (R)-5-(1-aminoethyl)thiophene-2-carboxylic acid hydrochloride as a white solid. LC-MS: (FA) ES+ 172.

reactant | 5-[(1R)-1-{[(S)-tert-butylsulfinyl]amino}ethyl]thiophene-2-carboxylate | 0.15 mmol, 0.050 g | C(C)(C)(C)[S@](=O)N[C@H](C)C1=CC=C(S1)C(=O)[O-]
reactant | hydrochloric acid | 12.0 mmol, 4.0 M, 3 mL | Cl | ClH
product | (R)-5-(1-aminoethyl)thiophene-2-carboxylic acid hydrochloride | Cl.N[C@H](C)C1=CC=C(S1)C(=O)O | InChI=1S/C7H9NO2S.ClH/c1-4(8)5-2-3-6(11-5)7(9)10;/h2-4H,8H2,1H3,(H,9,10);1H/t4-;/m1./s1
